US09163008B2
To a solution of the (2,2-dimethyl-1,3-dioxolan-4-yl)methanamine (4.616 g, 35.19 mmol) in diethylether (100 mL) was added pyridine (2.90 mL, 35.9 mmol). A solution of methanesulfonyl chloride (2.75 mL, 35.4 mmol) in diethylether (50 mL) was added to the amine solution over 30 minutes. After stirring for 2 h, the reaction was washed once with 25 mL water then twice with 25 mL brine. The organic layer was separated, dried over MgSO4, filtered, and evaporated to a residue. The residue was chromatographed over silica gel with 0-100% EtOAc in hexanes. The product fractions were evaporated in vacuo to give N-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)methanesulfonamide as a near-colorless oil (0.875 g, 4.18 mmol, 12% yield). 1H NMR (400 MHz, DMSO-d6): 7.17 (1H, t, J=6.4 Hz), 4.13-4.06 (1H, m), 3.98 (1H, dd, J=8.3 Hz, 6.4 Hz), 3.66 (1H, dd, J=8.3 Hz, 5.7 Hz), 3.09-2.98 (2H, m), 2.91 (3H, s), 1.33 (3H, s), 1.26 (3H, s).

reactant | (2,2-dimethyl-1,3-dioxolan-4-yl)methanamine | 35.19 mmol, 4.616 g | CC1(OCC(O1)CN)C | C6H13NO2
reactant | pyridine | 35.9 mmol, 2.90 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 35.4 mmol, 2.75 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | diethylether | 50 mL | C(C)OCC | C4H10O
product | N-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)methanesulfonamide | 4.18 mmol, 0.875 g, 12% yield | CC1(OCC(O1)CNS(=O)(=O)C)C | C7H15NO4S
